US07902187B2
6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one.
To a flask containing crude 2-(2-amino-5-fluorophenylamino)-6-chloro-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one (12 mg, 0.03 mmol) was added anhydrous methanol (3 mL), followed by anhydrous trimethylorthoformate (0.5 mL) and p-toluenesulfonic acid (catalytic) and the reaction mixture was stirred under Ar at room temperature for 18 h (HPLC monitoring). A solution 10% acetonitrile in water (total volume 10 mL) was added and a pale yellow solid precipitated. Filtration under vacuum provided the desired product as a pale yellow solid (10.6 mg, 88% yield). 1H NMR (300 MHz, CDCl3+CD3OD) δ, ppm: 9.07 (br s, 1H), 8.30 (br d, 1H), 7.82-7.70 (m, 1H), 7.27-7.15 (m, 1H), 4.48-4.42 (m, 1H), 3.88-3.80 (m, 1H), 2.67-2.50 (m, 2H), 2.33-2.18 (m, 2H), 2.10-1.95 (m, 2H), 1.70-1.56 (m, 2H); MS (EI) m/z 403.1 (MH)+.

reactant | 2-(2-amino-5-fluorophenylamino)-6-chloro-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one | 0.03 mmol, 12 mg | NC1=C(C=C(C=C1)F)NC1=NC(=C2NC(N(C2=N1)[C@@H]1CC[C@H](CC1)O)=O)Cl | C17H18ClFN6O2
reactant | methanol | 3 mL | CO | CH4O
reactant | trimethylorthoformate | 0.5 mL | COC(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-chloro-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one | 10.6 mg, 88% yield | ClC1=C2NC(N(C2=NC(=N1)N1C=NC2=C1C=C(C=C2)F)[C@@H]2CC[C@H](CC2)O)=O | C18H16ClFN6O2
